US03967952
1-diethylamino-2,4-diphenyl-1-buten-3,4-dione
Seven grams of N,N-diethylstyrylamine was dissolved in 100 ml. of diethyl ether and the solution was cooled to 0°C. Four grams of anhydrous triethylamine was added. A 7 g. portion of phenylglyoxyloyl chloride was dissolved in 50 ml. of diethyl ether and the solution was added dropwise, with stirring, to the first solution over about 75 minutes. As soon as the addition was complete, the reaction mixture was filtered, and the precipitated amine hydrochloride was washed with an additional 50 ml. of diethyl ether. The filtrate contained the intermediate enamine, 1-diethylamino-2,4-diphenyl-1-buten-3,4-dione, in dissolved form, and was used in the next step of the synthesis without purification.

reactant | N,N-diethylstyrylamine | Seven grams | C(C)N(CC)C=CC1=CC=CC=C1 | C12H17N
reactant | triethylamine | Four grams | C(C)N(CC)CC | C6H15N
reactant | phenylglyoxyloyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)=O | C8H5ClO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-diethylamino-2,4-diphenyl-1-buten-3,4-dione | C(C)N(C=C(C(C(=O)C1=CC=CC=C1)=O)C1=CC=CC=C1)CC | C20H21NO2
